US04166852
2-Amino-4-N-methylpiperazino-6-chloro-5-methylthio-pyrimidine hydrochloride
In the same way as in Example 1, but replacing the ethylamine by ammonia, 2-amino-4-N-methylpiperazino-6-chloro-5-methylthio-pyrimidine is prepared. M.p. 191°-192° C. (ethanol).

reactant | ammonia | N | H3N
reactant | 2-amino-4-N-methylpiperazino-6-chloro-5-methylthio-pyrimidine | NC1N(CCN(C1)C)C1=NC(=C(C=N1)SC)Cl | C10H16ClN5S
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-N-methylpiperazino-6-chloro-5-methylthio-pyrimidine hydrochloride | Cl.NC1N(CCN(C1)C)C1=NC(=C(C=N1)SC)Cl | InChI=1S/C10H16ClN5S.ClH/c1-15-3-4-16(8(12)6-15)10-13-5-7(17-2)9(11)14-10;/h5,8H,3-4,6,12H2,1-2H3;1H
